US06057337
2-(1-Octadecyl-2-piperidyl)ethan-1-ol and 1-bromo-4-chlorobutane are reacted in acetone in the presence of potassium carbonate at reflux temperature to obtain 2-[2-(4-chlorobutoxy)ethyl]-1-octadecylpiperidine.

reactant | 2-(1-Octadecyl-2-piperidyl)ethan-1-ol | C(CCCCCCCCCCCCCCCCC)N1C(CCCC1)CCO | C25H51NO
reactant | 1-bromo-4-chlorobutane | BrCCCCCl | C4H8BrCl
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | CC(=O)C | C3H6O
product | 2-[2-(4-chlorobutoxy)ethyl]-1-octadecylpiperidine | ClCCCCOCCC1N(CCCC1)CCCCCCCCCCCCCCCCCC | C29H58ClNO
